US08975400B2
4-(2-cyano-4-(((l-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)-2-(trifluoromethyl)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (9.37 mg, 0.234 mmol), 4-(2-cyano-4-(hydroxymethyl)phenoxy)-2-(trifluoromethyl)benzonitrile (49.7 mg, 0.156 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroimidazo-[1,2-c]pyrimidin-5(1H)-one (29 mg, 0.156 mmol).

reactant | sodium hydride | 0.234 mmol, 9.37 mg | [H-].[Na+]
reactant | 4-(2-cyano-4-(hydroxymethyl)phenoxy)-2-(trifluoromethyl)benzonitrile | 0.156 mmol, 49.7 mg | C(#N)C1=C(OC2=CC(=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)CO | C16H9F3N2O2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo-[1,2-c]pyrimidin-5(1H)-one | 0.156 mmol, 29 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(2-cyano-4-(((l-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)-2-(trifluoromethyl)benzonitrile | C(#N)C1=C(OC2=CC(=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2C | C23H16F3N5O3
